US05256675
A mixture of 2-acetylamino-5-chlorothiazole (1.76 g), 5-mercapto-2-methyl-1,3,4-thiadiazole (1.3 g) and potassium carbonate (2.0 g) in N,N-dimethylformamide (40 ml) was heated at 120° C. for 4 hours with stirring. The reaction mixture was concentrated under reduced pressure and water was added to this residue. The mixture was extracted with a mixture of tetrahydrofuran and ethyl acetate (1:1), washed with aqueous saturated sodium chloride and dried over magnesium sulfate. The solvent was concentrated under reduced pressure to give solid. The solid was subjected to column chromatography on silica gel (silica gel 60, 70-230 mesh; Merck: 150 g) and eluted with a mixture of chloroform and methanol (10:1). The fractions containing the objective compound were combined and concentrated under reduced pressure to give 2-acetylamino-5-(2-methyl-1,3,4-thiadiazol-5-ylthio)thiazole (1.65 g, yield: 60.7%). mp: 242°-244° C. IR (Nujol): 3250, 1695, 1550, 1300 cm-1

reactant | 2-acetylamino-5-chlorothiazole | 1.76 g | C(C)(=O)NC=1SC(=CN1)Cl | C5H5ClN2OS
reactant | 5-mercapto-2-methyl-1,3,4-thiadiazole | 1.3 g | SC1=NN=C(S1)C | C3H4N2S2
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2-acetylamino-5-(2-methyl-1,3,4-thiadiazol-5-ylthio)thiazole | 1.65 g, yield: 60.7% | C(C)(=O)NC=1SC(=CN1)SC1=NN=C(S1)C | C8H8N4OS3
